US04405357
To a stirred solution of 30.0 grams (0.22 mole) of 3-chloro-2,2-dimethylpropionic acid in 100 ml of absolute methanol was added dropwise 35.6 grams (0.66 mole) of a methanolic solution 25% in sodium methoxide. The exothermic reaction caused the reaction mixture temperature to rise to 40°. Upon completion of addition the reaction mixture was heated at reflux for 4 hours, then cooled to ambient temperature where it was stirred for one hour. The reaction mixture was acidified with concentrated hydrochloric acid and 150 ml of water was added. The mixture was extracted with four portions of 100 ml each of methylene chloride. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 20.8 grams of methyl 3-hydroxy-2,2-dimethylpropionate as an oil.

reactant | 3-chloro-2,2-dimethylpropionic acid | 0.22 mole, 30.0 grams | ClCC(C(=O)O)(C)C | C5H9ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | water | 150 ml | O | H2O
reactant | methanol | 100 ml | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
product | methyl 3-hydroxy-2,2-dimethylpropionate | 20.8 grams | OCC(C(=O)OC)(C)C | C6H12O3
